US04824843
A mixture of 2-methoxy-5-nitrobenzaldehyde, 16 g, (U.S. Pat. No. 4,367,234), 2,4,4-trimethyl-2-oxazoline, 30 ml, (Aldrich Chemical Company), para toluenesulfornic acid, 0.5 g, in toluene, 100 ml, is refluxed overnight under a water separator. The mixture is evaporated, the residue dissolved in diethylether, 800 ml, and washed with water. The diethyl ether layer is separated, concentrated, and filtered to give 11.1 g of 4,5-dihydro-2-[2-(2-methoxy-5-nitrophenyl)ethenyl]-4,4-dimethyloxazole after recrystallization from diisopropyl ether; mp 115°-116° C.

reactant | 2-methoxy-5-nitrobenzaldehyde | COC1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C8H7NO4
reactant | 2,4,4-trimethyl-2-oxazoline | CC=1OCC(N1)(C)C | C6H11NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4,5-dihydro-2-[2-(2-methoxy-5-nitrophenyl)ethenyl]-4,4-dimethyloxazole | 11.1 g | COC1=C(C=C(C=C1)[N+](=O)[O-])C=CC=1OCC(N1)(C)C | C14H16N2O4
